US07342138B2
In the same manner as in Example 3, the operation was conducted, except that 0.67 g (4 mmols) of o-nitrobenzyl methyl ether was used in place of m-methoxybenzyl alcohol and also 0.2 g (1.35 mmols) of sodium bromate was used. With respect to the components in the reaction solution, the intended o-nitrobenzaldehyde was produced in an area ratio, as determined by gas chromatography, of 53.6% and 38.6% of o-nitrobenzyl methyl ether as a raw material was remained.

reactant | o-nitrobenzyl methyl ether | 4 mmols, 0.67 g | COCC1=C(C=CC=C1)[N+](=O)[O-] | C8H9NO3
reactant | sodium bromate | 1.35 mmols, 0.2 g | Br(=O)(=O)[O-].[Na+]
product | o-nitrobenzaldehyde | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
